US08609669B2
tert-butyl 3-bromopyrazolo[1,5-a]pyrimidin-2-ylcarbamate
3-Bromopyrazolo[1,5-a]pyrimidine-2-carboxylic acid (1.95 g, 8.06 mmol; Art-Chem) was suspended in tert-butyl alcohol (75 mL). Triethylamine (1.35 mL, 9.67 mmol) and diphenylphosphoryl azide (2.09 mL, 9.67 mmol) was added and the mixture was stirred under refluxing condition for 4 hours. The reaction mixture was cooled to ambient temperature and concentrated under vacuum. The resulting residue was purified by reverse-phase HPLC [Waters XBridge™ RP18 column, 5 μm, 50×100 mm, flow rate 100 mL/minute, 20-75% gradient of methanol in buffer (0.1 M aqueous ammonium bicarbonate, adjusted to pH 10 with ammonium hydroxide)] to afford the title compound. MS (ESI) m/z 310/313 (M−H)−.

reactant | 3-Bromopyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 8.06 mmol, 1.95 g | BrC=1C(=NN2C1N=CC=C2)C(=O)O | C7H4BrN3O2
reactant | Triethylamine | 9.67 mmol, 1.35 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 9.67 mmol, 2.09 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butyl alcohol | 75 mL | C(C)(C)(C)O | C4H10O
product | tert-butyl 3-bromopyrazolo[1,5-a]pyrimidin-2-ylcarbamate | BrC=1C(=NN2C1N=CC=C2)NC(OC(C)(C)C)=O | C11H13BrN4O2
